US06566362B2
A stirred suspension of 1 g of ethyl 8-chloro-7,9-difluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate and 1.2 g of 1-(3-fluoro-4-methylphenyl)piperazine in 15 cm3 of dimethyl sulphoxide was heated to a temperature in the region of 80° C. After 20 hours, 0.6 g of 1-(3-fluoro-4-methylphenyl)piperazine was added and the heating was continued for an additional 8 hours. After 28 hours, the reaction mixture was cooled and then filtered. The precipitate was washed twice with 10 cm3 of water, twice with 5 cm3 of ethanol, and twice with 5 cm3 of diisopropyl ether. 0.64 g of ethyl 8-chloro-7-fluoro-9-[4-(3-fluoro-4-methylphenyl)piperazin-1-yl]-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate was obtained in the form of a greenish-yellow solid, which melted at 350° C. with decomposition.

reactant | ethyl 8-chloro-7,9-difluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 1 g | ClC1=C(C2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C=C1F)F | C16H11ClF2N2O3
reactant | 1-(3-fluoro-4-methylphenyl)piperazine | 1.2 g | FC=1C=C(C=CC1C)N1CCNCC1 | C11H15FN2
reactant | 1-(3-fluoro-4-methylphenyl)piperazine | 0.6 g | FC=1C=C(C=CC1C)N1CCNCC1 | C11H15FN2
solvent | dimethyl sulphoxide | 15 cm3 | CS(=O)C | C2H6OS
product | ethyl 8-chloro-7-fluoro-9-[4-(3-fluoro-4-methylphenyl)piperazin-1-yl]-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 0.64 g | ClC1=C(C2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C=C1N1CCN(CC1)C1=CC(=C(C=C1)C)F)F | C27H25ClF2N4O3
